US07169780B2
Step 11: Benzyl-(2S)-4,4-difluoro-2-(4-{[(4-fluorobenzyl)amino]carbonyl}-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidin-2-yl)pyrrolidine-1-carboxylate
Methyl-5-(benzoyloxy)-2-{(2S)-1-[(benzyloxy)carbonyl]-4,4-difluoropyrrolidin-2-yl}-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxylate in dry MeOH was treated with 4-fluorobenzyl amine (2.5 eq.) at reflux for 2 hours. Solvent was removed in vacuo and the residue was taken up in ethyl acetate, washed with HCl 1N, brine, dried over Na2SO4. The filtrate was concentrated in vacuo and triturated with ethyl ether to obtain the title compound as a 1.5:1 mixture of two rotamers by NMR.

reactant | Methyl-5-(benzoyloxy)-2-{(2S)-1-[(benzyloxy)carbonyl]-4,4-difluoropyrrolidin-2-yl}-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxylate | COC(=O)C=1N=C(N(C(C1OC(C1=CC=CC=C1)=O)=O)C)[C@H]1N(CC(C1)(F)F)C(=O)OCC1=CC=CC=C1 | C26H23F2N3O7
reactant | 4-fluorobenzyl amine | 2.5 eq. | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | MeOH | CO | CH4O
product | Benzyl-(2S)-4,4-difluoro-2-(4-{[(4-fluorobenzyl)amino]carbonyl}-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidin-2-yl)pyrrolidine-1-carboxylate | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CC(C1)(F)F)C=1N(C(C(=C(N1)C(=O)NCC1=CC=C(C=C1)F)O)=O)C | C25H23F3N4O5
